US03960783
A. Tris-(N-Cyanoanilino)-s-Triazine (TNCT)
A solution of 9.20g (0.05 mole) of cyanuric chloride in 100 ml of dioxane was added to 100 ml of ice water. To this mixture at room temperature was added dropwise a solution of 0.15 mole of sodium phenylcyanamide in 70 ml of water over a 30 minute period. After stirring for 3 hours at room temperature, the reaction mixture was refluxed for 16 hours. After cooling to room temperature the reaction mixture was filtered. The residue was washed with water and dried to give 17.2g (80%) of of TNCT, m.p. 209°-215°. Recrystallization from toluene gave 10.8g with an m.p. of 215°-218°.

reactant | cyanuric chloride | 0.05 mole, 9.20g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | sodium phenylcyanamide | 0.15 mole | C1(=CC=CC=C1)NC#N.[Na]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | 70 ml | O | H2O
product | Tris-(N-Cyanoanilino)-s-Triazine | C(#N)N(C1=CC=CC=C1)C1=NC(=NC(=N1)N(C1=CC=CC=C1)C#N)N(C1=CC=CC=C1)C#N | C24H15N9
